US05905152
Preparation of 5-Acetoxymethyl-2-phenyl-1H-imidazole
Mix 5-hydroxymethyl-2-phenyl-1H-imidazole (1.3 Kg) and toluene (10.4 L) at 20-25° C., and then heat the mixture with stirring to 50-55° C. Add acetic anhydride (780 ml, 1.1 equivalents) slowly and continue heating at 50-55° C. until the reaction is complete (typically 3-4 hours). Cool the reaction mixture to -5-0° C., filter off the product, wash it with toluene (3×700 ml) and then dry it under vacuum at 50-55° C. to constant weight.

reactant | 5-hydroxymethyl-2-phenyl-1H-imidazole | 1.3 Kg | OCC1=CN=C(N1)C1=CC=CC=C1 | C10H10N2O
reactant | acetic anhydride | 780 ml, 1.1 equivalents | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | 10.4 L | C1(=CC=CC=C1)C | C7H8
product | 5-Acetoxymethyl-2-phenyl-1H-imidazole | C(C)(=O)OCC1=CN=C(N1)C1=CC=CC=C1 | C12H12N2O2
